US06060477
7-(3-Methylsulphinylpropylamino)-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine
A cool (0° C.) solution of 7-(3-methylthiopropylamino)-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (1.84 g) and m-chloroperoxybenzoic acid (0.97 g) in dichloromethane (180 ml) was allowed to warm to ambient temperature with stirring. The solution was then stirred for 18 hours at ambient temperature and allowed to stand for 10 days . The reaction mixture was evaporated under reduced pressure and the residue eluted from a silica column with chloroform:methanol (gradient elution). The combined fractions containing product were evaporated under reduced pressure and the residue was recrystallized from isopropanol to yield the title compound, 1.73 g, m. p. 188-9° C.

reactant | 7-(3-methylthiopropylamino)-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 1.84 g | CSCCCNC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C19H23N5O2S
reactant | m-chloroperoxybenzoic acid | 0.97 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
product | 7-(3-Methylsulphinylpropylamino)-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | CS(=O)CCCNC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C19H23N5O3S
